US06063932
α-(chloromethyl)-4'-[(difluoromethyl)sulfonyl][1,1'-biphenyl]-4-methanol
To a 500-mL sidearm flask equipped with a thermometer and nitrogen inlet was charged 47.0 g (0.130 mol) of ca. 95%-pure 2-chloro-1-[4'-[(difluoromethyl) -sulfonyl][1,1'-biphenyl]-4-yl]ethanone, 200 mL of tetrahydrofuran, 1.40 mL (23 mmol) of glacial acetic acid, and 10 mL of water. The orange solution was cooled to 5° C. and 2.4 g (31 mmol) of sodium borohydride was added in three portions over about 15 minutes. The mixture was held for 15 minutes at 10° C., diluted with 200 mL of water, and acidified to pH 2 with about 40 mL of aqueous 1N HCl. Most of the THF was removed in vacuo and the oil was extracted with 400 mL of ethyl acetate. The ethyl acetate layer was washed in succession with water, aqueous NaHCO3, and aqueous NaCl, then dried with MgSO4, filtered, and concentrated to dryness. Then residue was crystallized from 200 mL of 1:1 toluene/hexanes, filtered, and washed with 50 mL of 1:1 toluene/hexanes to afford 35.3 g (78% yield) of product as a pale orange solid, m.p. 104-107° C.; a sample purified by chromatography and crystallization from EtOAc/hexanes had m.p. 111-112° C. 1H-NMR (CDCl3) δ3.3 (br s, 1H), 3.7 (dd, 1H), 3.8 (dd, 1H), 5.0 (dd, 1H), 6.23 (t, 1H, J=60 Hz), 7.55 (d, 2H), 7.65 (d, 2H), 7.82 (d, 2H), 8.05 (d, 2H). 13C-NMR (CDCl3) δ50.5, 73.5, 114.7 (t, JCF =286 Hz), 126.9, 127.7, 128.1, 130.1, 131.1, 138.6, 141.0, 148.1 ppm. 19F-NMR(CDCl3) δ-121.8 ppm (d, JHF =53 Hz). Mass spectrum m/z=346 (M+), 297 (M+ --CH2Cl, base peak), 182 amu.

reactant | 2-chloro-1-[4'-[(difluoromethyl) -sulfonyl][1,1'-biphenyl]-4-yl]ethanone | ClCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(F)F | C15H11ClF2O3S
reactant | acetic acid | 23 mmol, 1.40 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 31 mmol, 2.4 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | α-(chloromethyl)-4'-[(difluoromethyl)sulfonyl][1,1'-biphenyl]-4-methanol | 35.3 g, 78% yield | ClCC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(F)F | C15H13ClF2O3S
